US07750003B2
1-[4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(methylsulfonyloxymethyl)pyrimidin-2-yl]phenyl]-3-phenyl-urea
1-[4-[4-(Hydroxymethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-phenyl-urea (388 mg) was dissolved in DCM (15 mL) and triethylamine (0.194 mL) and the solution was cooled to 0° C. Methanesulfonyl chloride (0.108 mL) was added and the reaction stirred for 90 mins at 0° C. The reaction mixture was concentrated in vacuo and partitioned between DCM (20 mL) and water (10 mL). The organic phase was washed with brine (10 mL), dried (MgSO4) and concentrated in vacuo to give the desired compound (273 mg) as a solid.

reactant | 1-[4-[4-(Hydroxymethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-phenyl-urea | 388 mg | OCC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C23H25N5O3
reactant | triethylamine | 0.194 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 0.108 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(methylsulfonyloxymethyl)pyrimidin-2-yl]phenyl]-3-phenyl-urea | 273 mg | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)COS(=O)(=O)C)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C24H27N5O5S
